US08975254B2
5-Furan-2-yl-1-phenyl-1H-pyrazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide
The title compound was prepared as in Example 12 starting from 5-(2-furyl)-1-phenyl-1H-pyrazole-3-carboxylic acid and 2-[5-(3,4-dichlorophenyl)furan-2-yl]-ethylamine hydrochloride. The crude product was purified twice by flash chromatography using first CH2Cl2-MeOH as a gradient eluent (100:0-99:1). Then another purification by flash chromatography was done by using heptane/EtOAc (8:2) as an eluent. 1H NMR (400 MHz, DMSO-d6): 2.96 (2H, t), 3.58 (2H, m), 6.16 (1H, d), 6.34 (1H, d), 6.51 (1H, dd), 7.01 (1H, d), 7.07 (1H, s), 7.45-7.48 (2H, m), 7.54-7.56 (4H, m), 7.61 (1H, distorted dd), 7.73 (1H, d), 7.84 (1H, d), 8.49 (1H, t, 3J=5.9 Hz).

reactant | 5-(2-furyl)-1-phenyl-1H-pyrazole-3-carboxylic acid | O1C(=CC=C1)C1=CC(=NN1C1=CC=CC=C1)C(=O)O | C14H10N2O3
reactant | 2-[5-(3,4-dichlorophenyl)furan-2-yl]-ethylamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCN
product | 5-Furan-2-yl-1-phenyl-1H-pyrazole-3-carboxylic acid {2-[5-(3,4-dichlorophenyl)furan-2-yl]ethyl}amide | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCNC(=O)C1=NN(C(=C1)C=1OC=CC1)C1=CC=CC=C1 | C26H19Cl2N3O3
